US08008298B2
A solution of 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine (116 mg, 0.2 mmol) in anhydrous tetrahydrofuran (3 ml) was cooled to −78° C. and treated with nBuLi (2.13M in hexanes, 0.13 ml, 0.27 mmol) dropwise. The solution was stirred for 30 seconds and 1-methyl-cyclopropanecarboxylic acid methoxy-methyl-amide (88 mg, 0.61 mmol) was added in one portion. The reaction mixture was stirred at −78° C. for 30 minutes. The reaction mixture was quenched with saturated aqueous NaHSO4 and then partitioned between EtOAc/brine. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a yellow oil. The oil was purified by silica gel chromatography using 2-30% EtOAc in hexanes as eluant to provide 20 mg (19%) of (1-methyl-cyclopropyl)-[5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone.

reactant | 7-iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.2 mmol, 116 mg | IC1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C | C24H34IN3O3Si
reactant | nBuLi | 0.27 mmol, 2.13M, 0.13 ml | [Li]CCCC
reactant | 1-methyl-cyclopropanecarboxylic acid methoxy-methyl-amide | 0.61 mmol, 88 mg | CON(C(=O)C1(CC1)C)C | C7H13NO2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (1-methyl-cyclopropyl)-[5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | 20 mg, 19% | CC1(CC1)C(=O)C1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C | C29H41N3O4Si
